US07271153B2
To a solution of 6-(N-acetylamino)-3-(4-ethylbenzyl)-1H-pyridin-2-one (0.034 g) in dichloromethane (2.5 mL) were added acetobromo-α-D-glucose (0.10 g) and silver carbonate (0.17 g), and the mixture was stirred under shading for 3 hours at 50° C. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by preparative thin layer chromatography on silica gel (developing solvent: hexane/ethyl acetate=1/2) to give 6-(N-acetylamino)-2-(2,3,4,6-tetra-O-acetyl-β-D-gluco-pyranosyloxy)-3-(4-ethylbenzyl)pyridine (0.081 g).

reactant | 6-(N-acetylamino)-3-(4-ethylbenzyl)-1H-pyridin-2-one | 0.034 g | C(C)(=O)NC1=CC=C(C(N1)=O)CC1=CC=C(C=C1)CC | C16H18N2O2
reactant | acetobromo-α-D-glucose | 0.10 g | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
catalyst | silver carbonate | 0.17 g | C([O-])([O-])=O.[Ag+2]
product | 6-(N-acetylamino)-2-(2,3,4,6-tetra-O-acetyl-β-D-gluco-pyranosyloxy)-3-(4-ethylbenzyl)pyridine | 0.081 g | C(C)(=O)NC1=CC=C(C(=N1)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)CC1=CC=C(C=C1)CC | C30H36N2O11
